### PR TITLE
feat(ErdosProblems): 1142

### LINKED ISSUE #1975: Erdős Problem 1142: Prime Gaps and Powers of Two
### What is the conjecture

 For all powers of two $2^k$ with $1 < 2^k < n$, the difference $n - 2^k$ is prime. Erdős conjectured there exist infinitely many such positive integers $n$. The known examples are: $4, 7, 15, 21, 45, 75, 105$ (OEIS A039669). Computational searches have verified no other such $n \leq 2^{44}$.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://www.erdosproblems.com/1142, https://oeis.org/A039669

### Prerequisites needed

**Formalizability Rating:** 0/5 (0 is best) (as of 2026-02-01)

Building blocks (from Mathlib):
- `Nat.Prime` for primality predicate
- `HPow` and exponentiation for powers of two
- Basic arithmetic and inequality on natural numbers

Missing pieces (not in Mathlib):
- No direct characterization or census of integers satisfying this specific property
- Computational verification infrastructure (though this is a research problem, not a computational utility)

Rating justification: All necessary definitions exist in Mathlib (`Prime`, `Nat` arithmetic). The statement can be expressed directly as a Lean proposition using existing predicates.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by franzhusch**
fixes #1975 

Assisted by Claude Opus 4.6

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1142.lean [hunk 1]
```diff
@@ -0,0 +1,98 @@
...
+  sorry
+
+/--
+Mientka and Weitzenkamp [MiWe69] proved that the only $n \leq 2^{44}$ such that $n - 2^k$ is prime
+for all $k \geq 1$ with $2^k < n$ are $4, 7, 15, 21, 45, 75, 105$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1142.variants.mientka_weitzenkamp :
+    { n : ℕ | n ≤ 2 ^ 44 ∧ Erdos1142Prop n } = {4, 7, 15, 21, 45, 75, 105} := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1142.lean:63]: This can be disproved as stated: 
```lean
@[category research solved, AMS 11]
theorem erdos_1142.variants.mientka_weitzenkamp :
    ¬ { n : ℕ | n ≤ 2 ^ 44 ∧ Erdos1142Prop n } = {4, 7, 15, 21, 45, 75, 105} := by
  -- AlphaProof found a disproof
  push_neg
  delta Erdos1142Prop Ne
  use (by decide ∘(·.subset ⟨bot_le,fun a s=>nofun⟩))
```
Probably because `Erdos1142Prop 0` is true (and also `Erdos1142Prop 1`). This needs to be fixed in some way.

File: FormalConjectures/ErdosProblems/1142.lean [hunk 2]
```diff
@@ -0,0 +1,98 @@
...
+/--
+Are there infinitely many $n > 2$ such that $n - 2^k$ is prime for all $k \geq 1$ with $2^k < n$?
+
+The only known such $n$ are $4, 7, 15, 21, 45, 75, 105$ (OEIS [A039669](https://oeis.org/A039669)).
+-/
+@[category research open, AMS 11]
+theorem erdos_1142 :
+    answer(sorry) ↔ Infinite { n | Erdos1142Prop n } := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1142.lean:55]: Potentially we could have something like 
```lean
theorem erdos_1142_known_values : ∀ n ∈ ({4, 7, 15, 21, 45, 75, 105} : Finset ℕ), Erdos1142Prop n := by
  sorry
```
as standalone theorem, because that one is easy to prove (compared to the similar mientka_weitzenkamp)

File: FormalConjectures/ErdosProblems/1142.lean [hunk 3]
```diff
@@ -0,0 +1,98 @@
...
+for all $k \geq 1$ with $2^k < n$ are $4, 7, 15, 21, 45, 75, 105$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1142.variants.mientka_weitzenkamp :
+    { n : ℕ | n ≤ 2 ^ 44 ∧ Erdos1142Prop n } = {4, 7, 15, 21, 45, 75, 105} := by
+  sorry
+
+/-- $4$ satisfies the Erdős 1142 property: $4 - 2 = 2$ is prime. -/
+@[category test, AMS 11]
+theorem erdos_1142.test_4 : Erdos1142Prop 4 := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1142.lean]: those test statements are also good, but perhaps let's have them for all known values? The proofs shouldn't be more difficult.

File: FormalConjectures/ErdosProblems/1142.lean [hunk 4]
```diff
@@ -0,0 +1,98 @@
...
+@[category test, AMS 11]
+theorem erdos_1142.test_105 : Erdos1142Prop 105 := by
+  intro k hk hlt
+  have hle : k ≤ 6 := by
+    by_contra h; push_neg at h
+    exact absurd (Nat.pow_le_pow_right (by omega : 1 ≤ 2) h) (by omega)
+  interval_cases k <;> simp_all (config := { decide := true })
+
+/-- $106$ does not satisfy the Erdős 1142 property ($106 - 2 = 104 = 8 \times 13$). -/
+@[category test, AMS 11]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1142.lean:107]: also good to include some non-examples!

File: FormalConjectures/ErdosProblems/1142.lean (hunk 2 above)
Comment (franzhusch) [reply FormalConjectures/ErdosProblems/1142.lean:55]: As a test statement or what would be the purpose?

File: FormalConjectures/ErdosProblems/1142.lean (hunk 1 above)
Comment (franzhusch) [reply FormalConjectures/ErdosProblems/1142.lean:63]: Exlucded trivial cases 0,1,2

File: FormalConjectures/ErdosProblems/1142.lean (hunk 3 above)
Comment (franzhusch) [reply FormalConjectures/ErdosProblems/1142.lean]: is done

File: FormalConjectures/ErdosProblems/1142.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/1142.lean:55]: yes

File: FormalConjectures/ErdosProblems/1142.lean [hunk 5]
```diff
@@ -0,0 +1,116 @@
...
+- [erdosproblems.com/1142](https://www.erdosproblems.com/1142)
+- [A039669](https://oeis.org/A039669)
+- [Va99] Various, Some of Paul's favorite problems. Booklet produced for the conference "Paul Erdős
+  and his mathematics", Budapest, July 1999 (1999).
+- [MiWe69] Mientka, W. E. and Weitzenkamp, R. C., On f-plentiful numbers, Journal of
+  Combinatorial Theory, Volume 7, Issue 4, December 1969, pages 374-377.
+
+Are there infinitely many $n > 2$ such that $n - 2^k$ is prime for all $k \geq 1$ with $2^k < n$?
+The known such $n$ are $4, 7, 15, 21, 45, 75, 105$ (OEIS A039669).
+Mientka and Weitzenkamp have proved there are no other such $n \leq 2^{44}$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1142.lean]:
```suggestion

```
